US05554607
1-Ethyl-2-thioxo-3-(4-trifluoromethoxyphenyl)-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 19 using 9.2 g of N-ethyl glycine, 10.9 g of 4-trifluoromethoxyphenyl-isothiocyanate, 10.1 g of triethylamine, and 150 mL of methylene chloride. Purification was achieved by flash chromatography on silica gel (methylene chloride). Title compound (4.6 g) was obtained as a creamy solid, m.p. 116°-119° C. Anal. Calcd. for. C12H11F3N2O2S: C, 47.37; H, 3.64; N, 9.21. Found: C, 47.20; H, 3.50; N, 9.13. Mass spectrum (EI, M.+) m/z 304.

reactant | N-ethyl glycine | 9.2 g | C(C)NCC(=O)O | C4H9NO2
reactant | 4-trifluoromethoxyphenyl-isothiocyanate | 10.9 g | FC(OC1=CC=C(C=C1)N=C=S)(F)F | C8H4F3NOS
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-Ethyl-2-thioxo-3-(4-trifluoromethoxyphenyl)-imidazolidin-4-one | 4.6 g | C(C)N1C(N(C(C1)=O)C1=CC=C(C=C1)OC(F)(F)F)=S | C12H11F3N2O2S
